US07589117B2
N-Benzylphthalimide is prepared as described in Example 2, starting with 10 g of phthalic anhydride, 7.3 cm3 of benzylamine and a catalytic amount of para-toluenesulfonic acid in 100 cm3 of toluene. The reaction mixture is heated at a temperature in the region of 140° C. for 3 hours and is then cooled to a temperature in the region of 20° C. The reaction mixture is taken up in 100 cm3 of saturated aqueous sodium bicarbonate solution and the aqueous phase is extracted twice with 100 cm3 of ethyl acetate. The organic extracts are combined, washed with 50 cm3 of brine, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is dried in a desiccator under reduced pressure (2 kPa) at a temperature in the region of 20° C. 10.3 g of N-benzylphthalimide are thus obtained in the form of a white powder. (Rf=0.44, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (75/25 by volume)).

reactant | phthalic anhydride | 10 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | benzylamine | 7.3 cm3 | C(C1=CC=CC=C1)N | C7H9N
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | sodium bicarbonate | 100 cm3 | C([O-])(O)=O.[Na+]
product | N-benzylphthalimide | 10.3 g | C(C1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C15H11NO2
